US04734357
2-(2-Tetradecyloxyphenyl)carbamoyl-4-[1-(3-ethoxycarbonylphenyl)-5-tetrazolylthio]-1-naphthol (19.5 g) was added to a solution of 5.3 g of potassium hydroxide in 50 ml of methanol and stirred for 30 minutes at 40°-50° C. Then 10 ml of concentrated hydrochloric acid was diluted with 500 ml of water and poured into the reaction solution. Crystals precipitated were collected by filtration and recrystallized from methanol to obtain 16.1 g of 2-(2-tetradecyloxyphenyl)carbamoyl-4-[1-(3-carboxyphenyl)-5-tetrazolylthio]-1-naphthol, m.p., 136°-138° C. Yield was 86%.

reactant | 2-(2-Tetradecyloxyphenyl)carbamoyl-4-[1-(3-ethoxycarbonylphenyl)-5-tetrazolylthio]-1-naphthol | 19.5 g | C(CCCCCCCCCCCCC)OC1=C(C=CC=C1)NC(=O)C1=C(C2=CC=CC=C2C(=C1)SC1=NN=NN1C1=CC(=CC=C1)C(=O)OCC)O | C41H49N5O5S
reactant | potassium hydroxide | 5.3 g | [OH-].[K+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 2-(2-tetradecyloxyphenyl)carbamoyl-4-[1-(3-carboxyphenyl)-5-tetrazolylthio]-1-naphthol | 16.1 g, Yield was 86% | C(CCCCCCCCCCCCC)OC1=C(C=CC=C1)NC(=O)C1=C(C2=CC=CC=C2C(=C1)SC1=NN=NN1C1=CC(=CC=C1)C(=O)O)O | C39H45N5O5S
